### PR TITLE
feat: An Alternative Definition of the Locally Closed Term of Locally Nameless LC Using `LcAt`

### PR DESCRIPTION
**Pull request by sehun1024**
In  [A. Chargueraud, The Locally Nameless Representation](https://chargueraud.org/research/2009/ln/main.pdf),  which is the primary reference of implementation, several different definitions of “locally closed” are proposed. One of them is using "lc_at".

```
lc_at 0 M ↔ M.LC
```

This is somewhat useful in proving strong normalizing property and maybe other theorems related to locally closed terms. Also it is straightforward to defining an algorithm later to decide whether certain term is locally closed on not.

### CODE REVIEW

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean [hunk 1]
```diff
@@ -0,0 +1,181 @@
+module
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean:7]: Please add the copyright header with yourself as author.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 2]
```diff
@@ -0,0 +1,181 @@
...
+/-- Alternative Definitions for LC
+For all bound variables, lc_at looks for the binding lambda is actually there.
+
+We can define M is a locally closed term if and only if
+
+```
+  lc_at 0 M
+```
+
+The equivalence of the definitions will be proven in this section.
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: The docstring of a definition shouldn't refer to the file, please move this to the module docstring above.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 3]
```diff
@@ -0,0 +1,181 @@
...
+-/
+@[simp]
+def lc_at (k : ℕ) (M : Term Var):Prop :=
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: By the Mathlib naming conventions, this should be upper camel case. I guess this would be `LcAt`. I would also change the name of the file to this as well. 

 (This is awkward because the original is `LC`, but arguably that one is badly named).

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 4]
```diff
@@ -0,0 +1,181 @@
...
+match M with
+| Term.bvar i => i<k
+| Term.fvar _ => True
+| Term.app t₁ t₂ => lc_at k t₁ ∧ lc_at k t₂
+| Term.abs t => lc_at (k+1) t
+
+/-- depth counts the maximum number of the lambda that is enclosing variables. -/
+@[simp]
+def depth (M : Term Var) : ℕ :=
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: If you make this and the above both `scoped grind =`, it will help a lot with shortening these proofs.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean (hunk 3 above)
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: There are some style issues with spacing here, for instance around the type annotation colon and addition sign. You can also write this more compactly as
```lean
@[simp, scoped grind =]
def lc_at (k : ℕ) : Term Var → Prop
| bvar i => i < k
| fvar _ => True
| app t₁ t₂ => lc_at k t₁ ∧ lc_at k t₂
| abs t => lc_at (k + 1) t
```
by making the pattern match and namespace implicit. (Same thing for `depth`)

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean [hunk 5]
```diff
@@ -0,0 +1,181 @@
...
+@[simp]
+def depth (M : Term Var) : ℕ :=
+match M with
+| Term.bvar _ => 0
+| Term.fvar _ => 0
+| Term.app t₁ t₂ => Nat.max (depth t₁) (depth t₂)
+| Term.abs t => depth t +1
+
+
+protected lemma ind_on_depth (P : Term Var → Prop)
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean]: Should probably be
```suggestion
@[elab_as_elim]
protected lemma ind_on_depth (P : Term Var → Prop)
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 6]
```diff
@@ -0,0 +1,181 @@
...
+| Term.fvar _ => 0
+| Term.app t₁ t₂ => Nat.max (depth t₁) (depth t₂)
+| Term.abs t => depth t +1
+
+
+protected lemma ind_on_depth (P : Term Var → Prop)
+(h1 : ∀ i, P (bvar i))
+(h2 : ∀ x, P (fvar x))
+(h3 : ∀ M N, P M → P N → P (app M N))
+(h4 : ∀ M, P M → (∀ N, depth N ≤ depth M → P N) → P M.abs)
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: I would name these for their constructors so you get nice case names when doing `induction`.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 7]
```diff
@@ -0,0 +1,181 @@
...
+: ∀ M, P M := by
+  have h : ∀ (d: ℕ) (M:Term Var), depth M ≤ d → P M := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: Maybe this should be moved to its own lemma? This should be fewer than 10 lines with `grind`.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 8]
```diff
@@ -0,0 +1,181 @@
...
+      case app x y q r =>
+        simp only [depth, sup_le_iff] at p
+        exact h3 _ _ (q p.1) (r p.2)
+  exact (fun M ↦ h (depth M) M (by constructor))
+
+
+/-- The depth of the lambda expression doesn't change by opening at i-th bound variable
+ for some free variable. -/
+lemma depth_eq_depth_openRec_fvar (M : Term Var) (x : Var) :
+∀ (i : ℕ), depth (@openRec Var i (fvar x) M)= depth M := by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: The notation for `openRec` should be used here.

Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: The `(i : ℕ)` should be moved from the signature to being a hypothesis. With the `grind` annotations I mention above, this entire proof should be just `induction M generalizing i <;> grind`.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 9]
```diff
@@ -0,0 +1,181 @@
...
+  case app t₁ t₂ p₁ p₂ =>
+    intros i;simp only [depth, openRec]
+    rw [p₁,p₂]
+  case abs t p =>
+    intros i;simp only [depth, openRec, Nat.add_right_cancel_iff]
+    exact p (i+1)
+
+/-- The depth of the lambda expression doesn't change by opening for some free variable. -/
+theorem depth_eq_depth_open_fvar (M : Term Var) (x : Var) :
+depth (M ^ fvar x) = depth M := depth_eq_depth_openRec_fvar M x 0
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: This should be indented.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 10]
```diff
@@ -0,0 +1,181 @@
...
+
+
+/-- Opening for some free variable at i-th bound variable, increases the lc_at by 1. -/
+theorem lc_at_iff_lc_at_openRec_fvar (M : Term Var) (x : Var) (i : ℕ) :
+  lc_at (i+1) M ↔ lc_at i (@openRec Var i (fvar x) M)
+:= by
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: This should again become just `induction M generalizing i <;> grind`.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 11]
```diff
@@ -0,0 +1,181 @@
...
+
+
+/-- Opening for some free variable is locally closed if and only if M is lc_at 1. -/
+theorem lc_at_iff_lc_at_open_fvar (M : Term Var) (x : Var) :
+  lc_at 1 M ↔ lc_at 0 (M ^ (fvar x)) := lc_at_iff_lc_at_openRec_fvar M x 0
+
+
+/-- M is lc_at 0 if and only if M is locallly closed -/
+theorem lc_at_iff_LC (M : Term Var) [hF : HasFresh Var] : lc_at 0 M ↔ M.LC := by
+  apply LambdaCalculus.LocallyNameless.Untyped.Term.ind_on_depth (fun M ↦ lc_at 0 M ↔ M.LC )
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: This should be 
```suggestion
  induction M using LambdaCalculus.LocallyNameless.Untyped.Term.ind_on_depth with
```

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 12]
```diff
@@ -0,0 +1,181 @@
...
+  case h1 =>
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]: This should mostly be `grind`, with just a bit of extra work in the abstraction case. I got it down to:
```lean
theorem lc_at_iff_LC (M : Term Var) [hF : HasFresh Var] : lc_at 0 M ↔ M.LC := by
  induction M using LambdaCalculus.LocallyNameless.Untyped.Term.ind_on_depth with
  | abs =>
    constructor
    · grind [LC.abs ∅, depth_eq_depth_open_fvar, lc_at_iff_lc_at_openRec_fvar]
    · intros h2
      rcases h2 with ⟨⟩|⟨L,_,_⟩
      grind [fresh_exists L, depth_eq_depth_open_fvar, lc_at_iff_lc_at_openRec_fvar]
  | _ => grind [cases LC]
```

(You could probably safely add `grind` annotations to  `depth_eq_depth_open_fvar` and `lc_at_iff_lc_at_openRec_fvar`)

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean [hunk 13]
```diff
@@ -0,0 +1,181 @@
...
+
+namespace Cslib.LambdaCalculus.LocallyNameless.Untyped.Term
+
+universe u
+
+variable {Var : Type u}
+
+/-!
+
+This section is for the alternative and more useful definition for the "locally closed".
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LcAt.lean]: I think the docstring here and the portion below that should be moved up could be clearer. Maybe something like:

> `LcAt k M` is satisfied when all bound indices of `M` are smaller than `k`. When `k = 0`, this is equivalent to `LC`, as shown in `lc_at_iff_LC`.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
Thanks for opening this! The idea looks good, just some style reviews.

File: Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean [hunk 14]
```diff
@@ -0,0 +1,181 @@
...
+| Term.app t₁ t₂ => lc_at k t₁ ∧ lc_at k t₂
+| Term.abs t => lc_at (k+1) t
+
+/-- depth counts the maximum number of the lambda that is enclosing variables. -/
+@[simp]
+def depth (M : Term Var) : ℕ :=
+match M with
+| Term.bvar _ => 0
+| Term.fvar _ => 0
+| Term.app t₁ t₂ => Nat.max (depth t₁) (depth t₂)
```
Comment (chenson2018) [inline Cslib/Languages/LambdaCalculus/LocallyNameless/Untyped/LC_Equivalence.lean]:
```suggestion
| Term.app t₁ t₂ => max (depth t₁) (depth t₂)
```

**Comment by sehun1024** [comment]
Sorry for the many misses in the code convention. I changed the codes to meet the requirement, so could you check the codes again?

**Comment by chenson2018** [comment]
@sehun1024 Could you hold off pushing more changes for a bit? I am going to fix some other issues.

**Comment by chenson2018** [comment]
> Sorry for the many misses in the code convention. I changed the codes to meet the requirement, so could you check the codes again?

No worries, I have fixed the remaining issues that I may not have explained clearly enough.

**Review by chenson2018 — APPROVED** [review]
Thank you for contributing this!

**Comment by sehun1024** [comment]
> > Sorry for the many misses in the code convention. I changed the codes to meet the requirement, so could you check the codes again?
> 
> No worries, I have fixed the remaining issues that I may not have explained clearly enough.

Thank you for helping my contribution.
